US06288109B1
6-methyl-4-(phenylmethoxy)-2H-pyran-2-one (known) was reacted with piperonal in accordance with Method C described above under II to form E-6-[2-(1,3-benzodioxol -5-yl)ethenyl]-4-(phenylmethoxy)-2H-pyran-2-one: C21H16O5; yield 39%, melting point 150 to 152° C. (acetone). This condensation product was hydrogenated in accordance with Method A described above under I. For cleaning purposes the product was taken up in ethyl acetate, was extracted therefrom with 2 N potassium hydroxide solution and was precipitated from the latter by acidification: C14H12O5; yield 67%, melting point 200 to 201° C. (isopropanol/water).

reactant | 6-methyl-4-(phenylmethoxy)-2H-pyran-2-one | CC1=CC(=CC(O1)=O)OCC1=CC=CC=C1 | C13H12O3
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
product | E-6-[2-(1,3-benzodioxol -5-yl)ethenyl]-4-(phenylmethoxy)-2H-pyran-2-one | yield 39% | O1COC2=C1C=CC(=C2)/C=C/C2=CC(=CC(O2)=O)OCC2=CC=CC=C2 | C21H16O5
